US05523400
Methylene-1-Phenyl-Azetidine-2-One
16.05 g (50 mmol) 3-Bromo-2-bromomethyl-N-phenylpropionamide were dissolved in 250 ml dichloromethane and added to a solution of 30 g sodium hydroxide in 30 ml water. 1.6 g Benzyltriethylammonium chloride were added and the mixture was vigorously stirred for 7 hours. The suspension was then poured on 200 ml ethyl acetate, and the organic phases were separated, washed twice with 150 ml water and dried over magnesium sulfate. Evaporation of the solvent yielded 8.3 g of an oil which was purified by chromatography on silica gel (eluent: dichloromethane). Yield: 8.0 g (100%) M.p. 57°-58° C. Microanalysis: C10H9NO calc. C 75.45 H 5.70 N 8.80 found C 75.06 H 5.76 N 8.71

reactant | 3-Bromo-2-bromomethyl-N-phenylpropionamide | 50 mmol, 16.05 g | BrCC(C(=O)NC1=CC=CC=C1)CBr | C10H11Br2NO
reactant | sodium hydroxide | 30 g | [OH-].[Na+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
catalyst | Benzyltriethylammonium chloride | 1.6 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | Methylene-1-Phenyl-Azetidine-2-One | 8.3 g | C=C1C(N(C1)C1=CC=CC=C1)=O | C10H9NO
